US08669271B2
1-[4-(5-Bromo-2,3-dihydro-benzofuran-2-yl)-piperidin-1-yl]-2,2,2-trifluoro-ethanone
The title compound is prepared from 1-[4-(2,3-dihydro-benzofuran-2-yl)-piperidin-1-yl]-2,2,2-trifluoro-ethanone and N-bromo-succinimide following a procedure analogous to that described for Intermediate 1. Yield: 61% of theory; LC (method 2): tR=1.47 min; Mass spectrum (ESI+): m/z=378 [M+H]+.

reactant | 1-[4-(2,3-dihydro-benzofuran-2-yl)-piperidin-1-yl]-2,2,2-trifluoro-ethanone | O1C(CC2=C1C=CC=C2)C2CCN(CC2)C(C(F)(F)F)=O | C15H16F3NO2
reactant | N-bromo-succinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 1-[4-(5-Bromo-2,3-dihydro-benzofuran-2-yl)-piperidin-1-yl]-2,2,2-trifluoro-ethanone | Yield: 61% | BrC=1C=CC2=C(CC(O2)C2CCN(CC2)C(C(F)(F)F)=O)C1 | C15H15BrF3NO2
